US04060615
N-(Cyclopropylcarbonyl)piperazine (3.08 g., 0.02 mole) and 2-chloro-4-amino-6,7-dimethoxyquinazoline (4.74 g., 0.02 mole) are reacted according to the procedure of Example 1(a). The crude product crystallized from ethanol affords analytically pure 4-amino-2-[4-(cyclopropylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline, m.p. 283.5°-285.5° C. (corr.).

reactant | N-(Cyclopropylcarbonyl)piperazine | 0.02 mole, 3.08 g | C1(CC1)C(=O)N1CCNCC1 | C8H14N2O
reactant | 2-chloro-4-amino-6,7-dimethoxyquinazoline | 0.02 mole, 4.74 g | ClC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C10H10ClN3O2
product | 4-amino-2-[4-(cyclopropylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1CC1 | C18H23N5O3
